US07425551B2
a) ((S)-7-tert.-Butoxycarbonylamino-6-oxo-6,7-dihydro-dibenzo[b,d]azepin-5-yl)-acetic acid methyl ester
((S)-6-Oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester (284 mg, 0.88 mmol) were diluted in DMF (5 ml) and treated with sodium hydride (60 mg of 60% suspension in mineral oil, 1.5 mmol). After stirring for 30 minutes, methyl bromoacetate (0.14 ml, 1.5 mmol) were added and the solution stirred for another 6 h. The pH is adjusted to 1.5 with 2N hydrogen chloride and extracted with ethyl acetate (10 ml). After back-extraction of the aqueous phases with ethyl acetate, the combined organic phases were washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated to dryness. After chromatography (silica, eluent cyclohexane/ethyl acetate 88/12), the product was obtained as off-white viscous oil (63%); MS: m/e=397(M+H+).

reactant | ((S)-6-Oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester | 0.88 mmol, 284 mg | C(C)(C)(C)OC(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C19H20N2O3
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | methyl bromoacetate | 1.5 mmol, 0.14 ml | BrCC(=O)OC | C3H5BrO2
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ((S)-7-tert.-Butoxycarbonylamino-6-oxo-6,7-dihydro-dibenzo[b,d]azepin-5-yl)-acetic acid methyl ester | 63% | COC(CN1C2=C(C3=C([C@@H](C1=O)NC(=O)OC(C)(C)C)C=CC=C3)C=CC=C2)=O | C22H24N2O5
